US06479536B1
N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-N-[2-(4-methoxyphenyl)ethyl]acetamide
Sodium hydride (a 60% dispersion in liquid paraffin, 232.1 mg, 5.80 mmol) was washed twice with hexane and then suspended to N,N-dimethylformamide (25 ml). To this suspension was added under an argon atmosphere 3-(4-isopropylphenyl)-N-[2-(4-methoxyphenyl)ethyl]-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (537.9 mg, 1.18 mmol) and the reaction mixture was stirred at 60° C. for 20 minutes. Then, acetyl chloride (0.5 ml, 7.03 mmol) was added into the reaction mixture and stirred at the same temperature for 1 hour. After the reaction solution was cooled down to room temperature, an aqueous saturated solution of sodium hydrogen carbonate was added to the reaction mixture and the product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (hexane-ethyl acetate 3:1) to obtain the rotamer 1 (Rf=0.38; hexane-ethyl acetate 3:1) of the title compound (46% yield). Melting point: 134-136° C. (Ethyl acetate-hexane)

reactant | 3-(4-isopropylphenyl)-N-[2-(4-methoxyphenyl)ethyl]-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 1.18 mmol, 537.9 mg | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NCCC2=CC=C(C=C2)OC)C)(C)C | C31H39NO2
reactant | acetyl chloride | 7.03 mmol, 0.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-N-[2-(4-methoxyphenyl)ethyl]acetamide | 46% yield | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N(C(C)=O)CCC2=CC=C(C=C2)OC)C)(C)C | C33H41NO3
